US09403849B2
c) 1,4-Bis(anthracen-9-yl-10-boronic acid pinacol ester)naphthalene
Preparation analogous to Example 3b. Instead of 19.5 g (40 mmol) of 9,10-bis(2-bromophenyl)anthracene, 25.5 g (40 mmol) of 1,4-bis(10-bromoanthracen-9-yl)naphthalene are used. Sublimation at p=1×10−5 mbar, T=300° C. Yield: 12.1 g (16.5 mmol), 41.3% of theory; purity: 99.8% according to 1H-NMR.

reactant | 9,10-bis(2-bromophenyl)anthracene | 40 mmol, 19.5 g | BrC1=C(C=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=C(C=CC=C1)Br | C26H16Br2
reactant | 1,4-bis(10-bromoanthracen-9-yl)naphthalene | 40 mmol, 25.5 g | BrC1=C2C=CC=CC2=C(C2=CC=CC=C12)C1=CC=C(C2=CC=CC=C12)C=1C2=CC=CC=C2C(=C2C=CC=CC12)Br | C38H22Br2
product | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
